US08445440B2
To a solution of (4-fluoro-phenyl)-((S)-5-pyrrolidin-2-yl-pyridin-3-yl)-methanone (1.0 g, 3.7 mmol), (S)-2-tert-butoxycarbonylamino-6-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoic acid (2.0 g, 4.4 mmol) and ethyldiisopropylamine (3 mL) in DMF (20 mL) was added a solution of 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V) (1.67 g, 4.4 mmol) and 1H-benzo[d][1,2,3]triazol-1-ol (0.6 g, 4.4 mmol) in DMF (10 mL) and the mixture was shaken for 16 hours. The reaction mixture was diluted with ethyl acetate (300 mL), washed sequentially with brine (2×) (300 mL), saturated aqueous bicarbonate solution (300 mL), brine (300 mL), water (300 mL), and brine (300 mL), then dried over Na2SO4/MgSO4, and concentrated in vacuo to provide crude ((S)-5-tert-butoxycarbonylamino-6-{(S)-2-[5-(4-fluoro-benzoyl)-pyridin-3-yl]pyrrolidin-1-yl}-6-oxo-hexyl)-carbamic acid 9H-fluoren-9-ylmethyl ester as a light yellow foam.

reactant | (4-fluoro-phenyl)-((S)-5-pyrrolidin-2-yl-pyridin-3-yl)-methanone | 3.7 mmol, 1.0 g | FC1=CC=C(C=C1)C(=O)C=1C=NC=C(C1)[C@H]1NCCC1 | C16H15FN2O
reactant | (S)-2-tert-butoxycarbonylamino-6-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoic acid | 4.4 mmol, 2.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H32N2O6
reactant | ethyldiisopropylamine | 3 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 4.4 mmol, 0.6 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | ((S)-5-tert-butoxycarbonylamino-6-{(S)-2-[5-(4-fluoro-benzoyl)-pyridin-3-yl]pyrrolidin-1-yl}-6-oxo-hexyl)-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCCC[C@@H](C(=O)N1[C@@H](CCC1)C=1C=NC=C(C1)C(C1=CC=C(C=C1)F)=O)NC(=O)OC(C)(C)C)=O | C42H45FN4O6
